US05733913
6-(2,4,6-Trimethyl-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
The title compound was prepared according to Example 1, starting from 0.915 g of 2,4,6-trimethyl-benzyl cyanide and 0.76 g of 2,4-diamino-5-pyrimidine-carboxaldehyde; mp 276°-282° C.; CIMS (1% ammonia in methane): m/z (relative intensity) 279 (MH+, 54), 280 (MH+ +1, 100).

reactant | 2,4,6-trimethyl-benzyl cyanide | 0.915 g | CC1=C(CC#N)C(=CC(=C1)C)C | C11H13N
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | 0.76 g | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
reactant | ammonia | N | H3N
solvent | methane | C | CH4
product | 6-(2,4,6-Trimethyl-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | CC1=C(C(=CC(=C1)C)C)C1=CC2=C(N=C(N=C2)N)N=C1N | C16H17N5
